US04209515
A solution of 5.02 g (0.02 mole) of (2-chloroacetamido)-malonic acid diethyl ester [see Ajay Kumar Bose, J. Indian Chem. Soc. 31, 108-110 (1954)] and 4.50 g (0.03 mole) of sodium iodide in 100 ml of acetone is refluxed for 30 minutes. The reaction mixture is thereupon concentrated in vacuo. Water is added to the residue, and extraction is performed twice with methylene chloride. The organic phase is washed once with diluted aqueous sodium bisulphite solution and twice with saturated sodium chloride solution; it is dried over sodium sulphate and concentrated in vacuo. The residue is recrystallized from methylene chloride/hexane. After filtration with suction and drying in vacuo, there is obtained (2-iodoacetamido)-malonic acid diethyl ester, m.p. 95°-97°.

reactant | (2-chloroacetamido)-malonic acid diethyl ester | 0.02 mole, 5.02 g | C(C)OC(C(C(=O)OCC)NC(CCl)=O)=O | C9H14ClNO5
reactant | sodium iodide | 0.03 mole, 4.50 g | [I-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | (2-iodoacetamido)-malonic acid diethyl ester | C(C)OC(C(C(=O)OCC)NC(CI)=O)=O | C9H14INO5
